US07084154B2
A solution of 6-benzyloxy-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline (60 mg) in ethanol (4 mL) was added to a suspension of 10% Pd/C (100 mg) in ethanol (10 mL). The mixture was stirred at rt for 16 h under an atmosphere of hydrogen. The mixture was filtered through celite and evaporation of the filtrate yielded 3-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-6-ol (30 mg).

reactant | 6-benzyloxy-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline | 60 mg | C(C1=CC=CC=C1)OC=1C=C2C=3CC(NCC3NC2=CC1)C | C19H20N2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-6-ol | 30 mg | CC1NCC=2NC3=CC=C(C=C3C2C1)O | C12H14N2O
